US04824943
To a solution of dimethyl methylphosphonate (15.3 ml) in ethyl ether (300 ml) was added dropwise with cooling (-70° to -78° C.) in a stream of argon a solution of n-butyllithium in n-hexane (1.6M solution, 84 ml), and the mixture was stirred for 30 minutes. To the solution was added dropwise with cooling at the same temperature a solution of 2,3,4,6-tetra-O-(tetrahydropyranyl)-D-glucono-1,5-lactone (23.1 g) in ethyl ether (80 ml). The mixture was stirred for one hour, then the cooling bath was removed, and then the mixture was allowed to warm to 0° C. with stirring. The reaction solution was added to an ice-cooled mixture of 10%(W/V) ammonium chloride solution (250 ml) and ethyl ether (120 ml). The ethyl ether layer was separated. The aqueous layer was subjected to extraction with ethyl ether. The organic layers were combined, washed with water, dried over anhydrous magnesium sulfate, concentrated under reduced pressure, and dried further under reduced pressure to give 3,4,5,7-tetra-O-(tetrahydropyranyl)-1-deoxy-1-(dimethoxyphosphoryl)-D-gluco-2-heptulopyranose (26.6 g).

reactant | dimethyl methylphosphonate | 15.3 ml | CP(OC)(OC)=O | C3H9O3P
reactant | n-butyllithium | C(CCC)[Li]
reactant | 2,3,4,6-tetra-O-(tetrahydropyranyl)-D-glucono-1,5-lactone | 23.1 g | O1C(CCCC1)O[C@H]1C(=O)O[C@@H]([C@H]([C@@H]1OC1OCCCC1)OC1OCCCC1)COC1OCCCC1 | C26H42O10
solvent | ethyl ether | 300 ml | C(C)OCC | C4H10O
solvent | n-hexane | 1.6M, 84 ml | CCCCCC | C6H14
solvent | ethyl ether | 80 ml | C(C)OCC | C4H10O
product | 3,4,5,7-tetra-O-(tetrahydropyranyl)-1-deoxy-1-(dimethoxyphosphoryl)-D-gluco-2-heptulopyranose | 26.6 g | O1C(CCCC1)O[C@H]1C(CP(=O)(OC)OC)(O)O[C@@H]([C@H]([C@@H]1OC1OCCCC1)OC1OCCCC1)COC1OCCCC1 | C29H51O13P
